US04235736
Synthesis of p-pentyl biphenyl-3-cyano-4-octyloxy benzoate
2.75 g (5.10-3 moles) of p-pentyl biphenyl-3-bromo-4-octyloxy benzoate and 0.6 g (6.7.10-3 moles) of cuprous cyanide are introduced into 10 ml of dimethyl formamide. After system had been heated under reflux for 6 hours, it is cooled and poured into a mixture of 60 ml of deionized water and 5.5 ml of ethylene diamine. The solution is stirred and then extracted with ether. 2.3 g of crude product are obtained and then purified chromatographically on a column of silica, followed by recrystallization in ethanol. 1.8 g of pure product are obtained.

reactant | p-pentyl biphenyl 3-bromo-4-octyloxy benzoate | 5.10-3 moles, 2.75 g | C(CCCC)C1=CC=C(C=C1)C1=CC=CC=C1.C(C1=CC=CC=C1)(=O)OOC(C(CC)Br)CCCC
reactant | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
reactant | ethylene diamine | 5.5 ml | C(CN)N | C2H8N2
solvent | water | 60 ml | O | H2O
product | p-pentyl biphenyl 3-cyano-4-octyloxy benzoate | 1.8 g | C(CCCC)C1=CC=C(C=C1)C1=CC=CC=C1.C(C1=CC=CC=C1)(=O)OOC(C(CC)C#N)CCCC | InChI=1S/C17H20.C16H21NO3/c1-2-3-5-8-15-11-13-17(14-12-15)16-9-6-4-7-10-16;1-3-5-11-15(13(4-2)12-17)19-20-16(18)14-9-7-6-8-10-14/h4,6-7,9-14H,2-3,5,8H2,1H3;6-10,13,15H,3-5,11H2,1-2H3
